US07511066B2
B. Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(2-fluoroethoxy)benzoate
Using a procedure similar to that of Example 6-D, methyl 4-(2-fluoroethoxy)-2-hydroxybenzoate (3.6 g, 17.8 mmol), 1-tert-butoxycarbonyl-4-hydroxypiperidine (3.58 g, 17.8 mmol), and triphenylphosphine (5.60 g, 21.4 mmol) in THF (75 mL) is treated with diethyl azodicarboxylate (3.60 g, 17.8 mmol) in THF (15 mL) to afford the crude product (7.28 g) which is used without further purification.

reactant | methyl 4-(2-fluoroethoxy)-2-hydroxybenzoate | 17.8 mmol, 3.6 g | FCCOC1=CC(=C(C(=O)OC)C=C1)O | C10H11FO4
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 17.8 mmol, 3.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 21.4 mmol, 5.60 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 17.8 mmol, 3.60 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(2-fluoroethoxy)benzoate | 7.28 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)OCCF | C20H28FNO6
